US05554615
t-Butyl p-formylbenzoate (20 g, 97 mmol) was dissolved in dry diethyl ether (300 ml), followed by the dropwise addition of methylmagnesium bromide (3M ethereal solution, 33 ml) under cooling with ice and stirring. The obtained mixture was stirred for one hour and poured into a saturated aqueous solution of ammonium chloride, and the obtained mixture was extracted with ether. The ethereal phase was washed with water, dried and distilled to remove the solvent. The pale-yellow viscous liquid residue thus obtained was subjected to silica gel column chromatography and eluted with a solvent (ethyl acetate/hexane=1:4) to give 21.8 g of t-butyl 4-(hydroxyethyl)benzoate.

reactant | t-Butyl p-formylbenzoate | 97 mmol, 20 g | C(=O)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C12H14O3
reactant | methylmagnesium bromide | 3M, 33 ml | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | t-butyl 4-(hydroxyethyl)benzoate | 21.8 g | OCCC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C13H18O3
